US04689344
3,3,14,14-tetraphenylhexadecane-1,16-dioic acid
0.27 g of 3,3,14,14-tetraphenyl-6,11-diketohexadecane-1,16-dioic acid prepared as described in Example 23 and 0.23 ml of 85% hydrazine hydrate were added to a solution of 0.4 g KOH in 10 ml of triethyleneglycol. The mixture was heated at 120° C. for 24 h, then heated to 195° C. with the evaporation of water followed by reflux for 7 h. The mixture was cooled, diluted with water, extracted with ether, acidified and extracted into ether. The ether extract was washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness to yield the title compound. 58% yield.

reactant | 3,3,14,14-tetraphenyl-6,11-diketohexadecane-1,16-dioic acid | 0.27 g | C1(=CC=CC=C1)C(CC(=O)O)(CCC(CCCCC(CCC(CC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C40H42O6
reactant | hydrazine hydrate | 0.23 ml | O.NN
reactant | KOH | 0.4 g | [OH-].[K+]
solvent | triethyleneglycol | 10 ml | C(COCCOCCO)O | C6H14O4
solvent | water | O | H2O
product | 3,3,14,14-tetraphenylhexadecane-1,16-dioic acid | 58% yield | C1(=CC=CC=C1)C(CC(=O)O)(CCCCCCCCCCC(CC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C40H46O4
